US07358248B2
2-tert-Butoxy carbonylamino-3-[4-(4,6-diphenylpyrimidin-2-yl)-benzylsulfanyl]propionic acid methyl ester
A mixture of Methanesulfonic acid 4-(4,6-diphenylpyrimidin-2-yl)-benzyl ester, 0.15 g (0.36 mmol), N-(tert-Butoxycarbonyl)-L-cysteine methyl ester, 0.08 mL (0.36 mmol), cesium carbonate, 235 mg (0.72 mmol), and 10 mL of N,N-dimethylformamide was stirred at room temperature for 4 h. The mixture was diluted with 10 mL of water and extracted with 2×50 mL of ethyl acetate. The organic layer was washed with 2×50 mL portions of aq. LiCl, sat. aq. NaHCO3, sat. aq. NaCl, and dried (MgSO4). After the solution was concentrated, the residue was purified by column chromatography (eluted with 7% EtOAc-Heptane) to afford the desired product in 0.18 g (90%) as a white solid. 1H NMR (CDCl3) 8.67 (d, 2H, J=9.0 Hz), 8.30-8.27 (m, 4H), 8.02 (s, 1H), 7.61-7.55 (m, 6H), 7.47 (d, 2H, J=9.0 Hz), 5.30 (d, 1H, J=7.7 Hz), 4.63-4.52 (m, 1H), 3.82 (s, 2H), 3.76 (s, 3H), 2.93 (dd, 1H, J=15.7, 6.0 Hz), 2.84 (dd, 1H, J=15.7, 6.7 Hz), 1.47 (s, 9H).

reactant | Methanesulfonic acid 4-(4,6-diphenylpyrimidin-2-yl)-benzyl ester | C1(=CC=CC=C1)C1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=C(COS(=O)(=O)C)C=C1 | C24H20N2O3S
reactant | N-(tert-Butoxycarbonyl)-L-cysteine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CS)=O | C9H17NO4S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | 2-tert-Butoxy carbonylamino-3-[4-(4,6-diphenylpyrimidin-2-yl)-benzylsulfanyl]propionic acid methyl ester | COC(C(CSCC1=CC=C(C=C1)C1=NC(=CC(=N1)C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C32H33N3O4S
